US07790724B2
a) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (3-cyclohex-1-enyl-4′-methanesulfonylamino-biphenyl-4-yl)-amide
To a mixture of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (4′-amino-3-cyclohex-1-enyl-biphenyl-4-yl)-amide (as prepared in the Example 28, step (a), 28.1 mg, 0.0547 mmol) in 0.5 mL of DCM was added pyridine (113 μL, 0.16 mmol) followed by methanesulfonyl chloride (5.1 μL, 0.066 mmol). After stirring at RT for 16 h under Ar, the mixture was concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (2-4% EtOAc/DCM) to afford 31 mg (95%) of the title compound as a white solid. 1H-NMR (CDCl3; 400 MHz): δ 9.79 (s, 1H), 8.42 (d, 1H, J=8.6 Hz), 7.79 (s, 1H), 7.58 (d, 2H, J=8.6 Hz), 7.48 (dd, 1H, J=8.6, 2.3 Hz), 7.37 (s, 1H), 7.29 (d, 2H, J=8.6 Hz), 6.64 (s, 1H), 5.97 (s, 2H), 5.91 (m, 1H), 3.68 (t, 2H, J=8.2 Hz), 3.05 (s, 3H), 2.24-2.38 (m, 4H), 1.75-1.93 (m, 4H), 0.99 (t, 2H, J=8.2 Hz), 0.01 (s, 9H). Mass spectrum (ESI, m/z): Calcd. for C30H37N5O4SSi, 592.2 (M+H), found 591.6.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (4′-amino-3-cyclohex-1-enyl-biphenyl-4-yl)-amide | NC1=CC=C(C=C1)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCCCC1 | C29H35N5O2Si
reactant | pyridine | 0.16 mmol, 113 μL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.066 mmol, 5.1 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (3-cyclohex-1-enyl-4′-methanesulfonylamino-biphenyl-4-yl)-amide | 31 mg, 95% | C1(=CCCCC1)C=1C=C(C=CC1NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CC=C(C=C1)NS(=O)(=O)C | C30H37N5O4SSi
